US05536737
(S)-2-[[(S)-2-(Hydroxyacetyl)-1-pyrrolidinyl]carbonyl]-1-[(4methoxyphenyl)oxyacetyl]pyrrolidine (Compound 9)
A sulfur trioxide-pyridine complex (716 mg) was added, under ice-cooling, to a solution of (S)-2-[[(S)-2-(1-hydroxy-2(phenylmethyloxy)ethyl]-1-pyrrolidinyl]carbonyl]-1-[(4methoxyphenyl)oxyacetyl]pyrrolidine (988 mg) in a mixed solvent of toluene (1 ml), DMSO (1.5 ml) and triethylamine (0.7 ml) and the mixture was stirred for 2.5 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with a 10% aqueous solution of citric acid, saturated sodium hydrogencarbonate and water in order, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to give the title compound (673 mg).

reactant | (S)-2-[[(S)-2-(1-hydroxy-2(phenylmethyloxy)ethyl]-1-pyrrolidinyl]carbonyl]-1-[(4methoxyphenyl)oxyacetyl]pyrrolidine | 988 mg | OC(COCC1=CC=CC=C1)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(COC1=CC=C(C=C1)OC)=O | C27H34N2O6
reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
reactant | DMSO | 1.5 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
product | (S)-2-[[(S)-2-(Hydroxyacetyl)-1-pyrrolidinyl]carbonyl]-1-[(4methoxyphenyl)oxyacetyl]pyrrolidine | 673 mg | OCC(=O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(COC1=CC=C(C=C1)OC)=O | C20H26N2O6
